US05318977
N'-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-2-(2propyloxy)phenylurea
2-isopropoxy-aniline (123 mg, 0.813 mmole) was dissolved in CHCl3 (1 ml), added triethyl amine 0.113 ml, 0.813 mmole). Cooled soln. to 0° C., added a solution of 20%. phosgene in toluene 0.458 ml. 0.927 mmole) and stirred for 1.5 hours. To this solution was added tetrahydro-1H-pyrrolizin-7a(5H)-methylamine (114 mgs, .813 mmole) in CHCl3 and stirred for 18 hours. Solvent removed via rotary evaporator to give crude product as a solid. Solid was chromatographed on silica gel eluting with 5% CH3OH(NH3↑)/CHCl3 to give 220 mg (85%) of title compound as free base.

reactant | 2-isopropoxy-aniline | 0.813 mmole, 123 mg | C(C)(C)OC1=C(N)C=CC=C1 | C9H13NO
reactant | triethyl amine | 0.813 mmole, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetrahydro-1H-pyrrolizin-7a(5H)-methylamine | .813 mmole, 114 mgs | C1CCN2CCCC12CN | C8H16N2
solvent | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 0.458 ml | C1(=CC=CC=C1)C | C7H8
product | N'-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-2-(2propyloxy)phenylurea | 220 mg, 85% | C1CCN2CCCC12CNC(NC1=C(C=CC=C1)OC(C)C)=O | C18H27N3O2
